US08258130B2
A mixture of 2-(3-methoxy-phenyl)-pyrimidine-5-carboxylic acid (135 mg, 0.58 mmol), 4-amino-6-methyl-4,5-dihydro-2H-[1,2,4]triazin-3-one (76 mg, 0.58 mmol), DMTMM (171 mg, 0.6 mmol) and DMF (3 mL) is stirred at rt for 2 days. Water (3 ml) is added, and the precipitated product is filtered, washed with water and dried to afford 2-(3-methoxy-phenyl)-pyrimidine-5-carboxylic acid (6-methyl-3-oxo-2,5-dihydro-3H-[1,2,4]triazin-4-yl)-amide (127 mg). MS: 341 (M+H); 1H NMR (DMSO-d6): δ 1.91 (s, 3H), 4.23 (s, 3H), 4.62 (s, 2H), 7.53 (m, 2H), 8.34 (m, 1H), 8.46 (s, 1H), 9.27 (s, 2H), 9.97 (s, 1H), 11.08 (s, 1H). IC50=174.5 nM.

reactant | 2-(3-methoxy-phenyl)-pyrimidine-5-carboxylic acid | 0.58 mmol, 135 mg | COC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)O | C12H10N2O3
reactant | 4-amino-6-methyl-4,5-dihydro-2H-[1,2,4]triazin-3-one | 0.58 mmol, 76 mg | NN1C(NN=C(C1)C)=O | C4H8N4O
reactant | DMTMM | 0.6 mmol, 171 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Water | 3 ml | O | H2O
product | 2-(3-methoxy-phenyl)-pyrimidine-5-carboxylic acid (6-methyl-3-oxo-2,5-dihydro-3H-[1,2,4]triazin-4-yl)-amide | 127 mg | CC=1CN(C(NN1)=O)NC(=O)C=1C=NC(=NC1)C1=CC(=CC=C1)OC | C16H16N6O3
